* Schematics Netlist *



R_R1         0 $N_0001  1k  
C_C1         $N_0002 $N_0001  1m  
V_V1         $N_0002 0  
+SIN 0 10 2 0 0 0
D_D2         $N_0003 $N_0001 D1N4148 
V_V2         $N_0003 0 4v
