* Schematics Netlist *



D_D3         $N_0001 $N_0002 D1N4148 
V_V1         $N_0001 0  
+SIN 0 10 4 0 0 0
R_R3         $N_0003 $N_0002  1k  
V_V2         $N_0003 0 4V
