* Schematics Netlist *



E_U1         $N_0003 0 VALUE {LIMIT(V($N_0001,$N_0002)*1E6,-15V,+15V)}
R_R1         $N_0002 $N_0003  10k  
V_V1         $N_0004 0  
+SIN 0 10 4 0 0 0
R_R3         0 $N_0002  10k  
R_R4         $N_0001 0  10k  
C_C2         $N_0004 $N_0001  1n  
