* Schematics Netlist *



R_R2         $N_0002 $N_0001  1k  
R_R1         $N_0004 $N_0003  1k  
R_R3         $N_0003 $N_0005  1k  
E_U1         $N_0005 0 VALUE {LIMIT(V($N_0001,$N_0003)*1E6,-15V,+15V)}
R_R4         $N_0001 0  1k  
V_V1         0 $N_0002  
+SIN 0 15 4 0 0 0
V_V2         0 $N_0004  
+SIN 0 5 4 0 0 0
