* Schematics Netlist *



C_C1         $N_0001 $N_0002  1n  
E_U1         $N_0002 0 VALUE {LIMIT(V(0,$N_0001)*1E6,-15V,+15V)}
R_R1         $N_0003 $N_0001  1k  
V_V1         0 $N_0003  
+SIN 0 10 4 0 0 0
R_R2         $N_0001 $N_0002  1k  
